US07687491B2
(5b) Ethyl 1-({5-[5-(4-phenoxyphenyl)-1,2,4-oxadiazol-3-yl]-2-thienyl}methyl)azetidine-3-carboxylate
The crude product of the title compound was synthesized by conducting the similar reaction to that mentioned in Example 1 (1f) using {5-[5-(4-phenoxyphenyl)-1,2,4-oxadiazol-3-yl]-2-thienyl}methanol (97 m g, 0.28 mmol) that was obtained in Example 5 (5a), carbon tetrabromide (0.19 g, 0.56 mmol), triphenylphosphine (0.15 g, 0.56 mmol), ethyl 3-azetidinecarboxylate hydrochloride (70 mg, 0.42 mmol), and N,N-diisopropylethylamine (0.18 ml, 1.1 mmol). Subsequently, the crude product of the title compound thus obtained was purified by thin layer chromatography on a silica gel plate using a mixed solvent of ethyl acetate and hexane (4:3) as the developing solvent to afford the title compound (93 mg) in a yield of 72% as a colourless oily product.

reactant | {5-[5-(4-phenoxyphenyl)-1,2,4-oxadiazol-3-yl]-2-thienyl}methanol | 0.28 mmol | O(C1=CC=CC=C1)C1=CC=C(C=C1)C1=NC(=NO1)C1=CC=C(S1)CO | C19H14N2O3S
reactant | carbon tetrabromide | 0.56 mmol, 0.19 g | C(Br)(Br)(Br)Br | CBr4
reactant | triphenylphosphine | 0.56 mmol, 0.15 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | ethyl 3-azetidinecarboxylate hydrochloride | 0.42 mmol, 70 mg | Cl.N1CC(C1)C(=O)OCC
reactant | N,N-diisopropylethylamine | 1.1 mmol, 0.18 ml | C(C)(C)N(C(C)C)CC | C8H19N
product | Ethyl 1-({5-[5-(4-phenoxyphenyl)-1,2,4-oxadiazol-3-yl]-2-thienyl}methyl)azetidine-3-carboxylate | O(C1=CC=CC=C1)C1=CC=C(C=C1)C1=NC(=NO1)C1=CC=C(S1)CN1CC(C1)C(=O)OCC | C25H23N3O4S
